US06610734B2
5-Chlorothiophene-2-sulfonyl chloride (0.856 g, 3.94 mmol) was added dropwise (5 min) as a solution in CH2Cl2 (5 mL) to a 0° C. solution of (2S)-2-amino-2-(2,3-dihydro-1H-inden-2-yl)ethanol (0.46 g, 2.63 mmol) in CH2Cl2 (5 mL and triethylamine (3.8 mL, 5.26 mmol). The solution was allowed to warm to 25° C. overnight (19 h). An aliquot was taken and TLC. (1:1 EtOAc-hexane) indicated that reaction was complete. It was diluted with CH2Cl2 (50 mL) and the organic layer was washed with 1N HCl (2×50 mL), saturated aqueous NaCl (50 mL). The organic layer was dried over MgSO4, filtered and concentrated to obtain a crude oil (0.89 g). The crude product was purified by column chromatography, silica gel 230-400 mesh, eluant: 1:4 EtOAc-hexane to afford 5-chloro-N-[(1S)-1-(2,3-dihydro-1H-inden-2-yl)-2-hydroxy ethyl]thiophene-2-sulfonamide as an amorphous white solid (0.361 g, 38.4%). Mass Spectrum (−ESI): 356 (M−H)−. Anal. Calc'd for C15H10ClNO3S2: C, 50.34 H, 4.51 N, 3.91 Found: C, 50.28 H, 4.36 N, 3.77.

reactant | 5-Chlorothiophene-2-sulfonyl chloride | 3.94 mmol, 0.856 g | ClC1=CC=C(S1)S(=O)(=O)Cl | C4H2Cl2O2S2
reactant | (2S)-2-amino-2-(2,3-dihydro-1H-inden-2-yl)ethanol | 2.63 mmol, 0.46 g | N[C@H](CO)C1CC2=CC=CC=C2C1 | C11H15NO
reactant | triethylamine | 5.26 mmol, 3.8 mL | C(C)N(CC)CC | C6H15N
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 5-chloro-N-[(1S)-1-(2,3-dihydro-1H-inden-2-yl)-2-hydroxy ethyl]thiophene-2-sulfonamide | 0.361 g, 38.4% | ClC1=CC=C(S1)S(=O)(=O)N[C@H](CO)C1CC2=CC=CC=C2C1 | C15H16ClNO3S2
